US08008283B2
In a similar manner to Example 2, piretanide can be reacted with chloroacetonitrile in DMF to yield cyanomethyl 3-aminosulfonyl-4-phenoxy-5-(1-pyrrolidinyl)benzoate.

reactant | piretanide | C=1C=CC(=CC1)OC=2C(=CC(=CC2S(=O)(=O)N)C(=O)O)N3CCCC3 | C17H18N2O5S
reactant | chloroacetonitrile | ClCC#N | C2H2ClN
solvent | DMF | CN(C)C=O | C3H7NO
product | cyanomethyl 3-aminosulfonyl-4-phenoxy-5-(1-pyrrolidinyl)benzoate | NS(=O)(=O)C=1C=C(C(=O)OCC#N)C=C(C1OC1=CC=CC=C1)N1CCCC1 | C19H19N3O5S
